US06177440B1
A suspension of 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one (870 mg, 3.58 mM), a-bromo-o-xylene (662 mg, 3.58 mM), and potassium carbonate (500 mg, 3.61 mM) in 20 mL DMF was stirred at room temperature for 20 hours. The mixture was diluted with ethyl acetate, washed with H2O and saturated brine, dried over anhydrous magnesium sulfate, filtered, concentrated to afford 1.21 g (98%) of the 9-[(2-methylphenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one as a dark oil. 1H NMR (DMSO-d6) δ 7.5-7.2 (m, 4H), 7.15 (t, 1H, J=8 Hz), 7.0 (t, 1H, J=8 Hz), 6.15 (d, 1H, J=8 Hz), 5.55 (s, 2H), 3.85 (s, 3H), 2.6 (m, 2H), 2.4 (m, 2H), 2.4 (s, 3H), and 2.1 (m, 2H). IR (CHCl3, cm−1) 3010, 2952, 1724, 1671, 1653, 1604, 1460, 1444, 1290, 1174, and 1122. MS (ES) m/e 348.5.

reactant | 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one | 3.58 mM, 870 mg | C(=O)(OC)C1=C2C=3C(CCCC3NC2=CC=C1)=O | C14H13NO3
reactant | a-bromo-o-xylene | 3.58 mM, 662 mg | CC1=CC=CC=C1CBr | C8H9Br
reactant | potassium carbonate | 3.61 mM, 500 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-[(2-methylphenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one | 1.21 g, 98% | CC1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(CCCC12)=O)C(=O)OC | C22H21NO3
